US05019583
A suspension of cis-1-methoxycarbonyl-3-methyl-4-[(1-oxo-propyl)-2-fluorophenylamino]-piperidine (3.2 g, 9.89 mmol) in 48% aqueous HBr (20 ml) is refluxed for two hours. Upon heating the mixture dissolution occurs. The solution is cooled to 0° C. and 5N NaOH is added until the pH is between 11 and 12. The aqueous phase is extracted with methylene chloride (5×) and the combined organics dried over sodium sulfate and concentrated to give cis-3-methyl-4-(2-fluorophenylamino)-piperidine as an oil: 2.0 g; 97%.

reactant | cis-1-methoxycarbonyl-3-methyl-4-[(1-oxo-propyl)-2-fluorophenylamino]-piperidine | 9.89 mmol, 3.2 g | COC(=O)N1C[C@H]([C@H](CC1)N(C1=C(C=CC=C1)F)C(CC)=O)C | C17H23FN2O3
reactant | NaOH | 5N | [OH-].[Na+]
solvent | HBr | 20 ml | Br | BrH
product | cis-3-methyl-4-(2-fluorophenylamino)-piperidine | C[C@@H]1CNCC[C@@H]1NC1=C(C=CC=C1)F | C12H17FN2
